US08217027B2
A solution of 4-Benzyloxy-butyric acid (1.00 g, 5.15 mmol) and Propargylamine (284 mg, 5.15 mmol) in DMF (10.3 ml) was treated with Diisopropylethylamine (0.90 ml, 5.15 mmol), Hydroxybenzotriazole (788 mg, 5.15 mmol) and EDC (665 mg, 5.15 mmol) at room temperature. The resulting mixture was stirred overnight at room temperature under nitrogen. The reaction was concentrated under reduced pressure and the crude product is taken up in Ethyl acetate, washed with water, dried using Na2SO4, filtered, and concentrated to yield 4-Benzyloxy-N-prop-2-ynyl-butyramide (1.02 g, 86%) as a viscous oil.

reactant | 4-Benzyloxy-butyric acid | 5.15 mmol, 1.00 g | C(C1=CC=CC=C1)OCCCC(=O)O | C11H14O3
reactant | Propargylamine | 5.15 mmol, 284 mg | C(C#C)N | C3H5N
reactant | Diisopropylethylamine | 5.15 mmol, 0.90 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Hydroxybenzotriazole | 5.15 mmol, 788 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | EDC | 5.15 mmol, 665 mg
solvent | DMF | 10.3 ml | CN(C)C=O | C3H7NO
product | 4-Benzyloxy-N-prop-2-ynyl-butyramide | 1.02 g, 86% | C(C1=CC=CC=C1)OCCCC(=O)NCC#C | C14H17NO2
